US05760263
In the same apparatus and procedures as EXAMPLE 1, 0.60 g (3.22 mmol) of ferrocene was reacted with 1.05 g (6.44 mmol) of allyl-tert-butylchlorosilane under dry nitrogen atmospheric pressure for 2 hrs. After the addition of the catalyst solution, the reaction mixture was stirred for 2 hrs to complete the alkylation. The solvent was distilled off at atmospheric pressure and the products were then extracted with 20.0 ml of hexane. Vacuum distillation of the reaction products at 200° C. and at 0.5 torr produced (3-chloro-1,4,4-trimethyl-3-silapentyl)ferrocene [yield: 26% (based on the reacted ferrocene)].

reactant | ferrocene | 3.22 mmol, 0.60 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | allyl-tert-butylchlorosilane | 6.44 mmol, 1.05 g | C(C=C)[SiH](Cl)C(C)(C)C | C7H15ClSi
product | (3-chloro-1,4,4-trimethyl-3-silapentyl)ferrocene | yield: 26% | Cl[SiH](CC(C)[C-]1C=CC=C1)C(C)(C)C.[CH-]1C=CC=C1.[Fe+2] | InChI=1S/C12H20ClSi.C5H5.Fe/c1-10(11-7-5-6-8-11)9-14(13)12(2,3)4;1-2-4-5-3-1;/h5-8,10,14H,9H2,1-4H3;1-5H;/q2*-1;+2
